US07977358B2
3-Methoxymethyl-5-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
In analogy to the procedure described in Example 38A], 3-(trifluoromethyl)phenylhydrazine and rac-2-acetyl-4-methoxy-3-oxo-butyric acid ethyl ester gave after purification by flash column chromatography (CH2Cl2 to 5% Et2O/CH2Cl2) 5-methoxymethyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester and in 25% yield as light brown solid. MS: 343.0 (MH+) and 3-methoxymethyl-5-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester and in 36% yield as orange oil. MS: 343.0 (MH+).

reactant | 3-(trifluoromethyl)phenylhydrazine | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
reactant | rac-2-acetyl-4-methoxy-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(COC)=O)C(C)=O)=O | C9H14O5
product | 3-Methoxymethyl-5-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 25% yield | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)C(F)(F)F)COC | C16H17F3N2O3
